US04308168
25 grams (0.28 mole) of β-alanine and 41.6 grams (0.28 mole) of phthalic anhydride were heated at 150° C. while stirring for three hours and then cooled. On recrystallizing with ethyl acetate, N-phthalyl-β-alanine was obtained in 90% yield (55 grams).

reactant | β-alanine | 0.28 mole, 25 grams | NCCC(=O)O | C3H7NO2
reactant | phthalic anhydride | 0.28 mole, 41.6 grams | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
product | N-phthalyl-β-alanine | 90% yield | C1=CC=C(C(=C1)C(=O)NCCC(=O)O)C(=O)O | C11H11NO5
